Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Zoloft / Tetracyclines / Prozac / Paxil / Darvocet A500
 
Attending: ___.
 
Chief Complaint:
Admit for Cath
 
Major Surgical or Invasive Procedure:
Cardiac and Lower extemity catheterization with relook ___

 
History of Present Illness:
Ms. ___ is a ___ year old woman with history of CABG, 
mechanical AVR and MVR, hx of severe PVD s/p PTA’s, being 
referred for both cardiac and RLE angiography on ___ 
___. She has a history of prior retroperitoneal bleed with 
last cath. She had had a long history of symtoms of claudication 
with ambulation. She has had ___ angiography in the past that has 
demonstrated several ___ blockages.
.
She states that at baseline, she can typically walk 
approximately one block before she has to rest. She stated that 
a few days ago, she had experienced some dull chest pain at rest 
that lasted a few minutes. It was not associated with any SOB, 
nausea, or diaphoresis.
.
On ___ patient taken for ___ and coronary angiography. Patient 
had a complicated procedure that led to her transfer to the CCU. 
During the cath, patient developed a LCFA dissection. The LCFA 
was ballooned using an approach from the right. Patient also was 
found to have a proximal RCA lesion that was stented using a 
BMS. She was also found to have a LMCA lesion that was not 
intervened upon. Several hours post intervention, patient 
complained of pain in LLE and was unable to move her foot. 
Patient's foot was cold and did not have any pulses. She was 
taken for re-look and was found to have an embolus in the 
popliteal artery. Patient had an embolectomy and a stent placed 
in the popliteal artery. She was started on a heparin gtt and 
was taken to the CCU for back pain, delirium, nausea. She 
recieved pain meds, lorazepam and now feels better. She dropped 
her oxygen satutations and her CXR showed possible pulm edema 
and got furosemide 10 mg IV x 1 at 12am, to which she has 
diuresed well.
.
Pt is now transferred back to floor. Patient denies any nausea, 
vomiting, diarrhea, CP. 
 
Past Medical History:
Cardiac Risk Factors: (-)Diabetes, (+)Dyslipidemia, 
(+)Hypertension
.
Cardiac History:
CABG, in ___ anatomy as follows:
1. left internal mammary artery to left anterior descending
artery
2. saphenous vein grafts to right coronary artery
3. saphenous vein grafts to obtuse marginal artery
4. saphenous vein grafts to diagonal artery
Aortic Valve Replacement (19mm ___, Mitral 
Valve Replacement (27mm ___, Aortic Root 
Enlargement with Pericardial Patch
.
Percutaneous coronary intervention:
1. ___ atherectomy of the left SFA/PFA origin on
___
2. PTA was performed on the PFA origin on ___
3. Acculink stent in LICA on ___
4. Protege stent in the L SFA on ___
5. Atherectomy and angioplasty of RSFA on ___
.
Other Past History:
1. Hypertension.
2. Hyperlipidemia.
3. Peripheral vascular disease status post bilateral lower
extremity SFA revascularization by Dr. ___
- ___ ABIs: 0.82 and 1.05 on the right and left respectively, 
remaining stable with exercise. She has triphasic waveforms 
throughout with exception of monophasic right DP. Her PVRs are 
maintained at 16 bilaterally at the metatarsal level. Duplex 
results reveal elevated velocities at proximal aspect of stents 
bilaterally (248 and 305 cm/sec, respectively) consistent with 
50% narrowing.
- ___ ABIs: Right: 0.55, decreasing to 0.15 with exercise.
Left: 0.41, decreasing to 0.21 with exercise. Impression: Left
iliofemoral arterial disease, right SFA disease, possible left
SFA disease, bilateral infrapopliteal arterial disease.
- ___ right SFA atherectomy and angioplasty (Dr. ___
- ___ as below
4. Coronary artery disease, status post CABG x4 in ___,
under the care of Dr. ___.
5. Rheumatic heart disease with AR and MR, s/p AVR/MVR in
___.
6. Cardiomyopathy: ___ admission to ___ with
CHF, cardiomyopathy, EF = 25%. Etiology unclear; repeat echo
___ EF = 55%.
7. Asymptomatic bilateral carotid artery disease status post
LICA stent, under the care of Dr. ___ prior to
cardiac surgery in ___.
8. Congenital hip dysplasia status post left total-hip
replacement
9. Chronic back pain
10. Status post appendectomy
11. Status post cholecystectomy 
 
Social History:
___
Family History:
Mother: CAD, hypercholesterolemia, MI in ___, breast cancer. 
Fater: DM2, CVA. 
Siblings: Healthy.
 
Physical Exam:
VS - 97.7, 120/43, 62, 18, 93%RA
Gen: Oriented x3. Mood, affect appropriate.
HEENT: PERRL, EOMI. Conjunctiva were pink, no pallor or cyanosis 
of the oral mucosa. No xanthalesma.
Neck: No JVP
CV: RR, loud S1, load S2 with IV/VI SEM. No thrills, lifts. No 
S3 or S4.
Chest: Resp were unlabored, no accessory muscle use. CTAB, no 
crackles, wheezes or rhonchi.
Abd: Soft, NTND. No HSM or tenderness.
Ext: No c/c/e. No inguinal hematomas bilaterally. No bruit on R. 
L femoral soft bruit. BLE warm, well perfused.
Skin: No stasis dermatitis, ulcers, scars, or xanthomas.
.
Pulses:
Right: DP 2+ ___ 2+
Left: DP 2+ ___ 2+ 
 
Pertinent Results:
___ C Cath
COMMENTS:     
1. The right femoral artery sheath ws exchanged for a 6 ___ 
short
sheath. An omniflush catheter was advanced over an angled glide 
wire,
over the horn to the LCFA. Angiography revealed  a patent CFA 
with the
previous dissection site widely patent. The LSFA stent was 
widely patent
and the left popliteal artery was occluded and reconstituted 
aftet
approximately 40 mm. The AT and ___ were patent to the foot.
2. We planned to export the thrombus from the left popliteal 
artery and
laser if needed. A 6 ___ ___ sheath was advanced over the 
horn to
the contralateral SFA. The lesion was crossed with an angled 
glide wire
and then a spartacore wire. A 4.0 spider filter was used for 
distal
protection. Thrombectomy was preformed with the export cathether 
with
retrieval of thrombus but little improvment angiographically.
Atherectomy with a 1.4 mm laser at 45/30 was preformed without 
return of
flow. The lesion was then dilated with a 4.0 x 60 mm amphirion 
balloon.
A 5.0 x 80 mm Zilver stent was deployed in the left popliteal 
artery
and was post dilated with a 4.0 x 80 mm amphirion balloon.  
Final
angiography revealed no residual stenosis in the stent and no
dissection. The DP had a distal cut off though the ___ was widely 
patent.
3. Right femoral arteriotomy site was closed with a 6 ___ 
Angioseal
device.
 
FINAL DIAGNOSIS:    
1. Acute limb ischemia.
2. Successful thrombectomy, laser atherectomy, PTA and stenting 
of the
Left popliteal artery.

___ C Cath
COMMENTS:     
1.  Coronary angiography in this right-dominant system revealed:
--the LMCA had a proximal 70% tubular lesion with flow into the 
LCX and
competitive flow into the LAD.
--the LAD was patent with competitive flow to the diagonal and 
LAD from
a patent ___ graft.
--the LCX was a non-dominant vessel with moderate diffuse 
disease.
There is tenting of a small OM from the occluded SVG graft.
--the RCA was a dominant vessel with origin 90% lesion.
2.  Arterial conduit angiography revealed the LIMA-LAD graft to 
be
widely patent.  Venous conduit angiography revealed the SVG-RCA, 
SVG-OM,
and SVG-Diag grafts to be occluded.  This was confirmed by 
supravalvular
aortography.
3.  Supravalvular aortography confirmed occlusion of the 
SVG-RCA,
SVG-OM, and SVG-Diag grafts.
4.  Upon access in the ___ dissection was noted with preserved 
flow.
The EIA had moderate diffuse disease proximal to the previous 
SFA stent.
The REIA had a tubular 70% lesion with the RSFA having a 
proximal 90%
lesion above the previous stent.
5.  Limited resting hemodynamics revealed severe arterial 
systolic
hypertension, with SBP 202 mmHg.
6. We first palnned to fix the Right external iliac artery. We 
exchanged
the left CFA sheath for a 6 ___ Balken sheath. The lesion was 
crossed
with a  steel core wire to the Right popliteal artery. A 7.0 x 
80 mm
protege stent was deployed in the REIA and was post dilated with 
a 6.0 x
60 mm Admiral balloon. We then advanced a 6.0 x 20 mm 
angiosculpt
balloon to the proximal RSFA and dilated the lesion at moderate
pressure. Final angiography revealed no residual stenosis in the 
stent
and a 10% residual in the SFA.
7. We then turned our attention to the Right coronary artery. 
Successful
PTCA and stenting of the ostial RCA with a 4.0 x 15 mm VISION 
BMS which
was deployed at 17 ATM. Final angiography revealed no residual 
stenosis
in the stent, no dissection and TIMI III flow. (See ___ 
comments)
8. We then turned our attention to the LCFA dissection. We 
accessed t he
RCFA and placed a 6 ___ Balken sheath to the contralateral 
LCIA. A
angled glide wire was left in the L SFA. Angiography confirned a
retrograde dissection. The Left CFA was closed with a 6 ___ 
Mynx
device but flow diminished.  The ___ and the LCFA were t hen 
dilated
with a 6.0 x 60 admiral balloon to 5 ATMs. Final angiography 
revealed a
10% residual, a contained dissection with preserved flow.
 
FINAL DIAGNOSIS:    
1.  Native three-vessel CAD
2.  Patent LIMA-LAD
3.  Occluded SVG-RCA, SVG-Diag, and SVG-OM grafts.
4.  Dissection in ___ with preserved flow.
5.  Moderate diffuse disease in ___ tubular 70% stenosis in 
REIA and
90% stenosis in R SFA.
6.  Severe systemic arterial systolic hypertension.
7.  Successful stenting of the REIA and PTA of the RSFA.
8. Successful PTCA and stenting of the ostial RCA.
9. Successful PTA of teh LCFA dissection.
10.  Successful closure of ___ access site with Mynx closure 
device.

___ KUB
IMPRESSION: Incompletely visualized abdomen; however, visualized 
portion
appears normal. Indistinct left lung base, better characterized 
on
accompanying chest radiograph.

___ Femoral U/S
IMPRESSION:
1. No evidence of hematoma, pseudoaneurysm or AV fistula.
2. No sonographic evidence of foreign object in the right common 
femoral
artery. A possible angioseal device is seen in the superficial 
tissues
superficial to the right CFA.

___ 08:16AM BLOOD WBC-7.6 RBC-3.84* Hgb-7.4* Hct-26.6* 
MCV-69* MCH-19.2* MCHC-27.7* RDW-26.2* Plt ___
___ 09:20AM BLOOD Hct-26.4*
___ 04:45AM BLOOD WBC-8.6 RBC-3.56* Hgb-7.0* Hct-23.4* 
MCV-66* MCH-19.6* MCHC-29.9* RDW-26.9* Plt ___
___ 05:38AM BLOOD WBC-12.2* RBC-4.28 Hgb-8.2* Hct-27.4* 
MCV-64* MCH-19.3* MCHC-30.1* RDW-24.5* Plt ___
___ 03:55PM BLOOD ___ PTT-70.6* ___
___ 08:16AM BLOOD Plt ___
___ 08:16AM BLOOD ___ PTT-102.2* ___
___ 04:45AM BLOOD Plt ___
___ 04:45AM BLOOD ___ PTT-83.5* ___
___ 06:43AM BLOOD calTIBC-459 Hapto-<20* Ferritn-9.1* 
TRF-353
___ 06:43AM BLOOD Triglyc-84 HDL-45 CHOL/HD-2.8 LDLcalc-___ year old woman with history of CABG, mechanical AVR and MVR, 
hx of severe PVD s/p PTA’s, s/p BMS to ___ RCA and LCFA 
dissection, with REIA and L popliteal stenting.
.
#. CAD:  Patient is s/p CABG with triple vessel disease, and 
with lower extremity vascular disese.  CP free, but coronaries 
were looked. During the procedure, patient was found to have a 
tight left main that was supplying a diagonal (likely D1) that 
was not intervened upon.  The LMCA had a proximal 70% tubular 
lesion with flow into the LCX and competitive flow into the LAD 
that was patent.  The RCA was a dominant vessel with origin 90% 
lesion that was successfully stented with BMS.  The LMCA was not 
intervened upon.  
- Continue ASA, BB, Statin
- Continue ACE-I
- Continue Plavix 75mg daily
.
#PVD: Stable. During the cath, patient developed a LCFA 
dissection. The LCFA was ballooned using an approach from the 
right.  Several hours post intervention, patient complained of 
pain in LLE and was unable to move her foot. Patient's foot was 
cold and did not have any pulses. She was taken for re-look and 
was found to have an embolus in the popliteal artery. Patient 
had an embolectomy and a stent placed in the popliteal artery.  
She was started on a heparin gtt and was taken to the CCU for 
back pain, delirium, nausea.  Patient recovered after one night 
in the CCU. Patient has a soft L femoral bruit that was likely 
from the dissection, and was confirmed by ultrasound.  There was 
no evidence of AV fistula.  Patient's BLE are warm with ___ 
pulses present.

.
#. Pump: Patient is euvolemic on exam. She has a history of AV 
and MVR and has been on coumadin at home. Patient was started on 
a heparin drip and warfarin was held prior to procedure.  On 
discharge, patient's INR was 2.2, with goal 2.5-3.5.  Patient is 
to follow up with PCP for INR check.   
- Cont coumadin 5mg
- Follow INR as outpatient
.
#. Rhythm: NSR.
- Monitor on tele
.
#. Hyperlipidemia: Continue pravastain

. 
 
Medications on Admission:
Plavix 75mg daiy
HCTZ 12.5mg daily
Hydromorphone 2mg QID
Ipratropium Bromide BID-QID
Lisinopril 30mg daily
Lopressor 100mg BID
Omeprazole 20mg daily
Oxycontin 80mg BID
Pravastain 40mg daily
Coumadin ___
ASA 81mg daily 
 
Discharge Medications:
1. Metoprolol Tartrate 50 mg Tablet Sig: Two (2) Tablet PO BID 
(2 times a day).  
2. Clopidogrel 75 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
3. Pravastatin 20 mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).  
4. Lisinopril 30 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
5. Omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO BID (2 times a day).  
6. Ferrous Sulfate 325 mg (65 mg Iron) Tablet Sig: One (1) 
Tablet PO TID (3 times a day).
Disp:*90 Tablet(s)* Refills:*2*
7. Oxycodone 40 mg Tablet Sustained Release 12 hr Sig: Two (2) 
Tablet Sustained Release 12 hr PO Q8H (every 8 hours).  
8. Hydrochlorothiazide 12.5 mg Capsule Sig: One (1) Capsule PO 
DAILY (Daily).  
9. Warfarin 5 mg Tablet Sig: One (1) Tablet PO Once Daily at 4 
___: Please adjust according to your INR.  
10. Ipratropium Bromide 17 mcg/Actuation Aerosol Sig: One (1)  
Inhalation twice a day.  
11. Aspirin 325 mg Tablet, Delayed Release (E.C.) Sig: One (1) 
Tablet, Delayed Release (E.C.) PO once a day.
Disp:*30 Tablet, Delayed Release (E.C.)(s)* Refills:*2*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
- Coronary Artery Disease
- Peripheral vascular disease
- Hypertension

 
Discharge Condition:
Afebrile, Vitals Stable

 
Discharge Instructions:
You were hospitalized because you needed to have a lower 
extremity and cardiac catheterization.  You had a stent placed 
in your proximal right coronary artery and another placed in an 
artery in your right and left lower extremities.

Please continue to take plavix.  Your dose of aspirin has been 
increased to 325mg daily.

Your INR is 2.2 on discharge.  Please continue to adjust your 
coumadin dose based on your home INR machine.  Please make an 
appointment to see Dr. ___ and to have your INR officially 
checked on ___.

Please call Dr. ___ office to make an appointment to see 
him in ___ weeks.

You were also found to be anemic, please continue to take Iron 
supplements.  Please consider having a screening colonoscopy as 
an outpatient.
 
Followup Instructions:
___